US05187175
4,6-Bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide
To a slurry of 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid (6.20 g, 24.6 mmol) and N,N-dimethylformamide (0.10 mL, 1.3 mmol) in dichloromethane (200 mL) at ~0° C. under nitrogen atmosphere is added oxalyl chloride (3.30 mL, 37.8 mmol) dropwise. The resulting mixture is stirred 1 hour at 0° C., warmed to room temperature, and stirred an additional 2 hours. The solvent is removed under vacuum and tetrahydrofuran (200 mL) added to the residue. This mixture is cooled to ~0° C. and a solution of N,O-dimethyl-hydroxylamine hydrochloride (2.64 g, 27.1 mmol) and 1-methylpiperidine (3.30 mL, 27.2 mmol) in dichloromethane (100 mL) is added dropwise. After warming to room temperature, the mixture is stirred 16 hours, diluted with dichloromethane (200 mL), and washed with aqueous 0.1N HCl, saturated sodium bicarbonate, and brine solutions. The organic layer is concentrated and the residue recrystallized from ethyl acetate and hexane to give 4.26 g (58%) of the title compound, mp 137°-138° C.

reactant | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid | 24.6 mmol, 6.20 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)O | C13H20N2O3
reactant | oxalyl chloride | 37.8 mmol, 3.30 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 27.1 mmol, 2.64 g | Cl.CNOC
reactant | 1-methylpiperidine | 27.2 mmol, 3.30 mL | CN1CCCCC1 | C6H13N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1.3 mmol, 0.10 mL | CN(C=O)C | C3H7NO
product | 4,6-Bis(1,1-dimethylethyl)-5-hydroxy-N-methoxy-N-methyl-2-pyrimidinecarboxamide | 4.26 g, 58% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)N(C)OC | C15H25N3O3
